### PR TITLE
Strength for multisorted binding signatures

### PR DESCRIPTION
**Pull request by rmatthes**
For the function MultiSortedSigToFunctor, there is now also a corresponding function MultiSortedSigToSignature constructing the signature with strength.
Key to doing this is a heterogeneous notion of signature with strength: the final target category can be different (maybe it should be called pre-signature, and only when both categories are equal, we call it signature). For us, the difference is that between the slice category and its base category.
The heterogeneous notion needed more general strength laws on basis of monoidal operations on functors that are not endofunctors (the respective file is now misnomed).
The addition of a variable with a sort is reasonably described by a generalized option functor, this time not with a terminal object added but an arbitrary one.
Also more structure was needed for the distributive laws - in the end, it seemed better to have the functor as argument and not as part of the structure.
For simplicity, I replaced the iterated product based on foldr1 by one on foldr. Is anything lost be this?

### CODE REVIEW

File: UniMath/SubstitutionSystems/MultiSorted.v [hunk 1]
```diff
@@ -109,53 +113,36 @@ mkpair.
...
 Local Definition option_list (xs : list sort) : functor (SET / sort) (SET / sort).
 Proof.
 use (foldr _ _ xs).
 + intros s F.
-  apply (functor_composite (option_functor s) F).
+  apply (functor_composite (sorted_option_functor s) F).
 + apply functor_identity.
 Defined.
 
+Lemma option_list_cons (s: sort)(xs : list sort) : option_list (cons s xs) = functor_composite (sorted_option_functor s) (option_list xs).
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/MultiSorted.v]: This lemma is superfluous (which is good). Let's remove it.

File: UniMath/SubstitutionSystems/MultiSorted.v [hunk 2]
```diff
@@ -197,16 +183,91 @@ Defined.
...
+  θ : θ_source_functor_data (slice_precat HSET sort has_homsets_HSET)
+        (has_homsets_slice_precat has_homsets_HSET sort) HSET has_homsets_HSET
+        (exp_functor_list xs)
+      ⟶ θ_target_functor_data (slice_precat HSET sort has_homsets_HSET)
+          (has_homsets_slice_precat has_homsets_HSET sort) HSET has_homsets_HSET
+          (exp_functor_list xs), θ_Strength1_int θ × θ_Strength2_int θ) _ _ xs).
+    * apply (pr2 T).
+    * clear xs; intros x xs' IH.
+      set (IH_Sig := (tpair _ (exp_functor_list xs') IH) : Signature (slice_precat SET sort (homset_property SET)) hs HSET has_homsets_HSET).
+      destruct xs'. (* needed for typechecking the next term *)
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/MultiSorted.v]: That's a bad sign. 
I think it might be better to first construct the components of the signature individually, and then put them together into a signature afterwards.

File: UniMath/SubstitutionSystems/SignatureExamples.v [hunk 3]
```diff
@@ -424,7 +487,174 @@ mkpair; simpl.
...
+  + eapply pathscomp0.
+    - eapply pathsinv0, functor_comp.
+    - apply pathsinv0. eapply pathscomp0.
+      * eapply pathsinv0, functor_comp.
+      * eapply maponpaths.
+        apply pathsinv0.
+        rewrite assoc.
+        generalize (nat_trans_eq_pointwise (nat_trans_ax θ (F1,,X1)(F2,,X2) (α,,X)) c); simpl.
+        intro Hyp.
+        eapply pathscomp0.
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/SignatureExamples.v]: Superfluous composition of a path with identity path.

File: UniMath/SubstitutionSystems/SignatureExamples.v [hunk 4]
```diff
@@ -424,7 +487,174 @@ mkpair; simpl.
...
+rewrite <- assoc.
+rewrite id_left.
+eapply pathscomp0.
+  + eapply pathsinv0, functor_comp.
+  + apply pathsinv0. eapply pathscomp0.
+    * eapply pathsinv0, functor_id.
+    * eapply maponpaths.
+      generalize (nat_trans_eq_pointwise (θ_strength1 F) c); simpl.
+      intro Hyp.
+      eapply pathscomp0.
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/SignatureExamples.v]: Again superfluous composition with identity path.

File: UniMath/SubstitutionSystems/SignatureExamples.v [hunk 5]
```diff
@@ -424,7 +487,174 @@ mkpair; simpl.
...
+do 4 rewrite id_left.
+eapply pathscomp0.
+  + eapply pathsinv0, functor_comp.
+  + apply pathsinv0. eapply pathscomp0.
+    * eapply pathsinv0, functor_comp.
+    * eapply maponpaths.
+      generalize (nat_trans_eq_pointwise (θ_strength2 F Ze Ze') c); simpl.
+      rewrite id_left.
+      intro Hyp.
+      eapply pathscomp0.
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/SignatureExamples.v]: Superfluous.

File: UniMath/SubstitutionSystems/SignatureExamples.v [hunk 6]
```diff
@@ -424,7 +487,174 @@ mkpair; simpl.
 Defined.
 
 (** Signature for the Id functor *)
-Definition IdSignature : Signature C hsC :=
+Definition IdSignature : Signature C hsC C hsC :=
   tpair _ (functor_identity _) θ_functor_identity.
 
+
+(** an alternative approach would be to go through θ_from_δ_Signature, based on the following observtions *)
+Lemma aux_functor_identity_is_precomp_with_id (F: functor_precategory_data C C) : (pr1 (functor_identity_data (functor_precategory_data C C))) F = (pr1 (pre_composition_functor_data C C C hsC hsC (functor_identity C))) F.
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/SignatureExamples.v]: As discussed and mentioned below, this lemma should not be necessary and deserves to be removed.

File: UniMath/SubstitutionSystems/MultiSorted.v (hunk 1 above)
Comment (rmatthes) [inline UniMath/SubstitutionSystems/MultiSorted.v]: Done in my copy.

File: UniMath/SubstitutionSystems/MultiSorted.v (hunk 2 above)
Comment (rmatthes) [inline UniMath/SubstitutionSystems/MultiSorted.v]: I rather think that lists are not as nicely behaved as the axiomatic ones of Coq.

File: UniMath/SubstitutionSystems/SignatureExamples.v (hunk 6 above)
Comment (rmatthes) [inline UniMath/SubstitutionSystems/SignatureExamples.v]: The whole development of that idea removed (in my copy), only the idea left in a comment

File: UniMath/SubstitutionSystems/SignatureExamples.v (hunk 5 above)
Comment (rmatthes) [inline UniMath/SubstitutionSystems/SignatureExamples.v]: those three observations were absolutely accurate - thanks
